US07468371B2
N-phenylpent-4-ynamide
The procedure for Example 41 was used, substituting 4-pentynoic acid for 6-bromo-4-carboxy-1-indanone and aniline for t-butyl glycinate to provide Example 645. MS (ESI): m/z 174 (M+H)+.

reactant | 6-bromo-4-carboxy-1-indanone | BrC1=CC(=C2CCC(C2=C1)=O)C(=O)O | C10H7BrO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butyl glycinate | NCC(=O)OC(C)(C)C | C6H13NO2
product | N-phenylpent-4-ynamide | C1(=CC=CC=C1)NC(CCC#C)=O | C11H11NO
